US05401756
a) Preparation of 4-(4-chlorobenzoyl) phthalic acid anhydride
To 10 ml of acetic acid were added 1.00 g of 4-(4-chlorobenzoyl)phthalic acid and 1.34 g of acetic anhydride, and the resultant mixture was refluxed under heating for 3.5 hours. After finishing the reaction, the acetic acid was evaporated in vacuo and the resultant residue was mixed with hexane. The precipitated solid was filtered, washed with hexane and dried to give 0.91 g of the titled compound.

reactant | 4-(4-chlorobenzoyl)phthalic acid | 1.00 g | ClC1=CC=C(C(=O)C=2C=C(C(C(=O)O)=CC2)C(=O)O)C=C1 | C15H9ClO5
reactant | acetic anhydride | 1.34 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4-(4-chlorobenzoyl) phthalic acid anhydride | 0.91 g | ClC1=CC=C(C(=O)C=2C=C3C(C(=O)OC3=O)=CC2)C=C1 | C15H7ClO4
